US07148226B2
3-(2-Oxo-pyrrolidin-1-yl)-propionic acid
A solution of 2-oxo-1-pyrrolidinepropionitrile (22.4 g, 16.2 mmol), 15% NaOH solution (40 mL) and dioxane (40 mL) was heated under reflux for 5 h under N2. The reaction mixture was extracted with EtOAc. The aqueous layer was made acidic with 6N HCl amd extracted with CH2Cl2 (5×50 mL). The organic layers were dried over Na2SO4 and concentrated to give the title compound as a cream solid (12.4 g, 49%).

reactant | 2-oxo-1-pyrrolidinepropionitrile | 16.2 mmol, 22.4 g | O=C1N(CCC1)CCC#N | C7H10N2O
reactant | NaOH | 40 mL | [OH-].[Na+]
reactant | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 3-(2-Oxo-pyrrolidin-1-yl)-propionic acid | 12.4 g, 49% | O=C1N(CCC1)CCC(=O)O | C7H11NO3
